US06458772B1
d) 3-(N-FMOC-L-valyloxy )-2-stearoyloxypropionic acid
A solution of benzyl 3-(N-FMOC-L-valyloxy )-2-stearoyloxypropionate (0.78 g, 1 mmole) in 20 ml ethyl acetate was hydrogenated with 10% palladium on charcoal (0.2 g) at normal pressure for three hours at room temperature. The catalyst was filtered and washed with ethyl acetate and 1,4-dioxane. The solution was evaporated under reduced pressure. Yield: 0.63 g=90%

reactant | benzyl 3-(N-FMOC-L-valyloxy )-2-stearoyloxypropionate | 1 mmole, 0.78 g | C(=O)(OCC1C2=CC=CC=C2C2=CC=CC=C12)N[C@@H](C(C)C)C(=O)OCC(C(=O)OCC1=CC=CC=C1)OC(CCCCCCCCCCCCCCCCC)=O | C48H65NO8
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
catalyst | palladium on charcoal | 0.2 g | [Pd] | Pd
product | 3-(N-FMOC-L-valyloxy )-2-stearoyloxypropionic acid | C(=O)(OCC1C2=CC=CC=C2C2=CC=CC=C12)N[C@@H](C(C)C)C(=O)OCC(C(=O)O)OC(CCCCCCCCCCCCCCCCC)=O | C41H59NO8
